US07741347B2
Diisobutylaluminum hydride (20.57 ml of 1.0 M in hexanes, 20.57 mmol) was added drop-wise over 10 min to a cooled (−78° C.) THF (120 mL) solution of (2S)-1-benzyl 4-methyl 3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)succinate (3.37 g, 6.86 mmol) prepared above, and stirred at −78° C. for 20 hr. The reaction mixture was removed from the cooling bath and rapidly poured into ˜1M H3PO4/H2O (250 mL) with stirring, and the mixture was extracted with ether (100 mL, 2×). The combined organic phase was washed with brine, dried (MgSO4), filtered and concentrated in vacuo. A silica gel mesh of the crude material was prepared and submitted to chromatography (25% EtOAc/hexanes; gravity elution) to afford 1.1 g of (2S,3S)-benzyl 4-hydroxy-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate, contaminated with benzyl alcohol, as a colorless viscous oil and (2S,3R)-benzyl 4-hydroxy-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate containing the (2S,3R) stereoisomer as an impurity. The later sample was resubmitted to the same column chromatography purification conditions to afford 750 mg of purified material as a white foam. [Note: the (2S,3S) isomer elutes before the (2S,3R) isomer under the above condition]. (2S,3S) isomer: 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz): 7.81 (m, 2H), 7.39-7.08 (m, 16H), 4.67 (d, J=12.3, 1H), 4.43 (d, J=12.4, 1H), 4.21 (app t, J=5.2, OH), 3.22 (d, J=10.1, NH), 3.17 (m, 1H), 3.08 (m, 1H), ˜2.5 (m, 1H, overlapped with the solvent signal), 1.58 (m, 1H), 0.88 (d, J=6.8, 3H). LC (Cond. 1): RT=2.00 min; LC/MS: Anal. Calcd. for [M+H]+ C31H30NO3: 464.45. found 464.22. (2S,3R) isomer: 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz): 7.81 (d, J=7.5, 2H), 7.39-7.10 (m, 16H), 4.63 (d, J=12.1, 1H), 4.50 (app t, J=4.9, 1H), 4.32 (d, J=12.1, 1H), 3.59-3.53 (m, 2H), 3.23 (m, 1H), 2.44 (dd, J=9.0, 8.3, 1H), 1.70 (m, 1H), 0.57 (d, J=6.8, 3H). LC (Cond. 1): RT=1.92 min; LC/MS: Anal. Calcd. for [M+H]+ C31H30NO3: 464.45. found 464.52.

reactant | Diisobutylaluminum hydride | 20.57 mmol, 1.0 M, 20.57 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | (2S)-1-benzyl 4-methyl 3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)succinate | 6.86 mmol, 3.37 g | CC([C@@H](C(=O)OCC1=CC=CC=C1)NC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1)C(=O)OC | C32H29NO4
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | (2S,3S)-benzyl 4-hydroxy-3-methyl-2-(9-phenyl-9H-fluoren-9-ylamino)butanoate | 1.1 g | OC[C@H]([C@@H](C(=O)OCC1=CC=CC=C1)NC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1)C | C31H29NO3
